US08357694B2
(S)-6-(3,4-dichlorophenyl)-N-(4-(2-(4-(2-methoxyethyl)piperazin-1-yl)ethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine hydrochloride
This was synthesized by using (S)-4-(6-(3,4-dichlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate, 1-(2-methoxyethyl)piperazine and triethylamine as described in general procedure 2 to give a yellow solid. M.p.=248-250° C. 1H NMR 400 MHz (DMSO-d6) δ 9.63 (s, br, 1H) 8.33-8.29 (m, 2H), 7.79 (d, J=8.0 Hz, 2H), 7.52-7.42 (m, 2H), 7.23 (d, J=8.8 Hz, 2H), 7.10 (m, 2H), 7.03-7.00 (dd, J=2.0, 8.4 Hz, 2H), 4.46 (t, J=6.4 Hz, 1H), 3.78-3.36 (m, 17H), 3.15 (t, J=6.0 Hz, 2H), 3.01 (m, 2H). LCMS m/e 588 (M+H).

reactant | (S)-4-(6-(3,4-dichlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate | CS(=O)(=O)OCCC1=CC=C(C=C1)NC1=NC=2C3=C([C@@H](CC2C=N1)C1=CC(=C(C=C1)Cl)Cl)C=CC=C3 | C27H23Cl2N3O3S
reactant | 1-(2-methoxyethyl)piperazine | COCCN1CCNCC1 | C7H16N2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | (S)-6-(3,4-dichlorophenyl)-N-(4-(2-(4-(2-methoxyethyl)piperazin-1-yl)ethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine hydrochloride | Cl.ClC=1C=C(C=CC1Cl)[C@@H]1CC=2C=NC(=NC2C2=C1C=CC=C2)NC2=CC=C(C=C2)CCN2CCN(CC2)CCOC | InChI=1S/C33H35Cl2N5O.ClH/c1-41-19-18-40-16-14-39(15-17-40)13-12-23-6-9-26(10-7-23)37-33-36-22-25-20-29(24-8-11-30(34)31(35)21-24)27-4-2-3-5-28(27)32(25)38-33;/h2-11,21-22,29H,12-20H2,1H3,(H,36,37,38);1H/t29-;/m0./s1
